US04954518
In 70 ml of toluene was suspended 3.4 g of methyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone. 17 ml of ethyl formate was added thereto. Further, 3.4 g of sodium hydride (purity: 60%) was added thereto in portions in 20 minutes. The mixture was refluxed for 5 hours. The reaction mixture was introduced into 300 ml of ice water. The aqueous layer was separated and adjusted to pH 4 with 4N hydrochloric acid. The mixture was then extracted with two 100-ml portions of ethyl acetate. The extracts were combined and subjected to distillation under reduced pressure to remove the solvent. The residue was dissolved in 20 ml of acetic acid. 1 ml of concentrated hydrochloric acid was added. The mixture was heated for 30 minutes at 50°-60° C. 200 ml of water was added thereto. The resulting mixture was extracted with 200 ml of ethyl acetate. The extract was washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from acetonitrile to obtain 2.28 g (yield: 65%) of 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 216.7°-217 6° C.

reactant | methyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone | 3.4 g | OC1=C(C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1)C(=O)C | C15H15NO5S
reactant | ethyl formate | 17 ml | C(=O)OCC | C3H6O2
reactant | sodium hydride | 3.4 g | [H-].[Na+]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.28 g, yield: 65% | CS(=O)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C16H13NO5S
